reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2](=[O:3])[H:7])[N:6]=[C:5]=[C:4]([H:8])[H:9]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],26.957022886625502
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9].[O:4]([H:12])[H:13],76.2728004579218
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[C:6]#[C:7][H:11])[H:9])([H:8])[H:10],73.311579610652
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13]>>[C:1]([C:2]([C:3](=[C:4])[H:10])([H:8])[H:9])([C:5]([H:11])([H:12])[H:13])([H:6])[H:7],84.86369401205201
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:6](=[C:5]1[C:3]#[C:4]1)[H:8])[H:7],100.675427970588
[N:1]([C:2](=[O:3])/[C:4](=[C:5](/[O:6][H:10])[H:11])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],53.76174826778528
[O:1]1[C@@:2]([C:5]#[C:6][H:10])([H:8])[C@@:3]1([O:4][H:7])[H:9]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],43.0878445307398
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1](/[C:2]([O:3][H:13])=[C:4](\[O:5][H:12])[H:11])([H:8])([H:9])[H:10],45.808317419175395
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][C:6]([H:13])([H:14])[C@@:7]1([O:5][H:12])[H:15])[H:8],84.3505853036903
[C:1]([C:2](=[C:6]=[N:7][H:14])[H:11])([H:8])([H:9])[H:10].[C:3](=[C:4]([O:5][H:16])[H:15])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],30.354243946615497
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:2](=[O:3])=[C:4]([H:10])[H:11].[N:1]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])[H:9],111.58865789233
[C:1]([C-:2]([O+:3]=[C:4]([O:5][C:6]#[C:7][H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],13.753526863840804
[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5]#[N:6])([H:9])[H:10])\[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],31.107348504919507
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[O+:6]=[C-:5][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],65.6740422815313
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:5]#[C:6][H:14])[H:10])([H:7])[H:8].[C:4]([H:9])([H:11])([H:12])[H:13],90.121173886497
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8].[H:10][H:11]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],63.69154507311921
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:5]\[C:4]([C:6]([H:15])([H:16])[H:17])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],92.241783197405
[C:1](=[N:2][C@:3]([N:4]([H:11])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:9])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],62.590332490791894
[H:12][H:13].[N:1]([C:2](=[O:3])[C:4]([C:5][C:6]([O:7][H:16])([H:14])[H:15])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],5.058002139459802
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O+:7]=[C-:6][H:13])[O:3][C@:4]1([O:5][H:12])[H:11])([H:8])([H:9])[H:10],102.31864540145399
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3]([O:4][C:6]([H:12])([H:13])[H:14])=[N:5]\[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],76.7606912647305
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([N+:7]#[C-:6])[H:8],109.11778524389901
[C:1](=[O:2])([H:8])[H:9].[C:3](=[O:4])([C:5]([O:6][H:12])([H:10])[H:11])[H:7]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],46.94006475463551
[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:2](=[O+:3][C:4](=[O:5])[H:11])[H:9].[C:1]([H:6])([H:7])([H:8])[H:10],92.28261259747772
[C:1]([C:2]([C:3](=[C:4]=[N:5][H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],68.7208854672296
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C-:3]([N+:4]([H:11])([H:12])[H:13])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],65.3411321942764
